US08633237B2
a) benzyl 5-bromo-2,3-dihydro-1H-inden-1-ylcarbamate,
To a vigorously stirred solution of 5-bromo-2,3-dihydro-1H-inden-1-amine (8.54 g, 40.3 mmol) and potassium carbonate (11.1 g, 80 mmol) in water (100 mL) and ethyl acetate (100 mL) was added benzyl chloroformate (7.56 g, 44.3 mmol). The reaction was stirred at rt overnight before being diluted with water (200 mL) and dichloromethane (200 mL). The organic phase was collected and the aqueous phase was extracted once more with dichloromethane (100 mL). The clear colourless organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a white solid. The material was co-evaporated once with diethyl ether and the residue was triturated with diethyl ether. The white solid was collected by filtration and dried on air to afford the title compound as a white solid (11.5 g, 82%). MS (ESI): m/z [M+H]+ 347.0

reactant | 5-bromo-2,3-dihydro-1H-inden-1-amine | 40.3 mmol, 8.54 g | BrC=1C=C2CCC(C2=CC1)N | C9H10BrN
reactant | potassium carbonate | 80 mmol, 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 44.3 mmol, 7.56 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | benzyl 5-bromo-2,3-dihydro-1H-inden-1-ylcarbamate | 11.5 g, 82% | BrC=1C=C2CCC(C2=CC1)NC(OCC1=CC=CC=C1)=O | C17H16BrNO2
